US07220744B2
c) 4-[5-(2,2-Difluoro-vinyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 6.73 mmol triphenylphosphine in 13 ml N,N-dimethylformamide was added 6.73 mmol dibromodifluoromethane and the mixture was stirred at room temperature for 1 h. 3.36 mmol 4-(5-formyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester was added and the mixture was then cooled to 0° C. 6.73 mmol zinc dust was added in small portions and stirring continued for 10 min at 0° C. The mixture was then allowed to warm to room temperature and stirring continued for a further 2 h. The reaction mixture was then filtered and the filtrate was concentrated in vacuo. The residue was purified by chromatography (SiO2, ethyl acetate/heptane) to afford the title compound as a white crystalline solid (yield 19%). MS (m/e): 332.3 (M+H+, 10%), 276.0 ([M+2H−tBu]+, 100%).

reactant | triphenylphosphine | 6.73 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibromodifluoromethane | 6.73 mmol | BrC(F)(F)Br | CBr2F2
reactant | 4-(5-formyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 3.36 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C=O | C13H19N3O3S
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 6.73 mmol | [Zn] | Zn
product | 4-[5-(2,2-Difluoro-vinyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | yield 19% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C=C(F)F | C14H19F2N3O2S
